US04129590
To an ice-bath cooled solution (5° C.) of 8-amino-1,3,6-naphthalenetrisulfonic acid trisodium salt and 6.7 g of sodium acetate trihydrate in 100 ml of water is added 8.8 g of 4-nitro-2-sulfobenzoic acid anhydride. The mixture is stirred vigorously for 10 minutes and is filtered. The filtrate is cooled in an ice bath and diluted with 500 ml of cold ethyl alcohol. The mixture is filtered and the product is washed with ethyl alcohol and ether and then is dried. The product is dissolved in 50 ml of warm water and is stirred for 10 minutes after the addition of one ml of acetone. The mixture is treated with activated charcoal, filtered through diatomaceous earth and is washed with 20 ml of water. The filtrate is cooled in an ice bath and acidified with 1.5 ml of concentrated hydrochloric acid. The solution is diluted with 500 ml of cold ethyl alcohol, and the precipitated material is filtered, washed with ethanol followed by ether and dried. The above purification process is repeated without acidification. The product obtained is dried overnight at 110° C. to give 18.5 g of 8-(4-nitro-2-sulfobenzamido)-1,3,6-naphthalenetrisulfonic acid tetrasodium salt.

reactant | 8-amino-1,3,6-naphthalenetrisulfonic acid trisodium salt | [Na+].[Na+].[Na+].NC=1C=C(C=C2C=C(C=C(C12)S(=O)(=O)[O-])S(=O)(=O)[O-])S(=O)(=O)[O-]
reactant | sodium acetate trihydrate | 6.7 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | 4-nitro-2-sulfobenzoic acid anhydride | 8.8 g | [N+](=O)([O-])C1=CC(=C(C(=O)OC(C2=C(C=C(C=C2)[N+](=O)[O-])S(=O)(=O)O)=O)C=C1)S(=O)(=O)O | C14H8N2O13S2
solvent | water | 100 ml | O | H2O
product | 8-(4-nitro-2-sulfobenzamido)-1,3,6-naphthalenetrisulfonic acid tetrasodium salt | 18.5 g | [Na+].[Na+].[Na+].[Na+].[N+](=O)([O-])C1=CC(=C(C(=O)NC=2C=C(C=C3C=C(C=C(C23)S(=O)(=O)[O-])S(=O)(=O)[O-])S(=O)(=O)[O-])C=C1)S(=O)(=O)O | InChI=1S/C17H12N2O15S4.4Na/c20-17(12-2-1-9(19(21)22)5-14(12)37(29,30)31)18-13-6-10(35(23,24)25)3-8-4-11(36(26,27)28)7-15(16(8)13)38(32,33)34;;;;/h1-7H,(H,18,20)(H,23,24,25)(H,26,27,28)(H,29,30,31)(H,32,33,34);;;;/q;4*+1/p-3
